US06897013B2
(1) Synthesis of mono(2-ethylhexyl) mono(3,3,4,4,5,5,6,6,6-nonafluorohexyl) Maleate
3,3,4,4,5,5,6,6,6-Nonafluorohexanol (515 g, 1.95 mol), pyridine (169 g, 2.13 mol) and triethylamine (394 mL, 3.89 mol) were dissolved in chloroform (1000 mL) and added dropwise with 2-ethylhexyl maleate chloride (530 g, 2.14 mol), while the internal temperature was kept at 20° C. or lower on an ice bath. After completion of the addition, the reaction mixture was stirred at room temperature for 1 hour and then added with chloroform. The organic phase was washed with water and a saturated sodium chloride aqueous solution. Then, the organic layer was collected, and the organic solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/chloroform=10/0 to 7/3 (v/v)) to obtain the target compound (508 g, yield: 50%), which was colorless and transparent.

reactant | 3,3,4,4,5,5,6,6,6-Nonafluorohexanol | 1.95 mol, 515 g | FC(CCO)(C(C(C(F)(F)F)(F)F)(F)F)F | C6H5F9O
reactant | pyridine | 2.13 mol, 169 g | N1=CC=CC=C1 | C5H5N
reactant | triethylamine | 3.89 mol, 394 mL | C(C)N(CC)CC | C6H15N
reactant | 2-ethylhexyl maleate chloride | 2.14 mol, 530 g | [Cl-].C(\C=C/C(=O)[O-])(=O)OCC(CCCC)CC
solvent | chloroform | 1000 mL | C(Cl)(Cl)Cl | CHCl3
product | mono(2-ethylhexyl) mono(3,3,4,4,5,5,6,6,6-nonafluorohexyl) Maleate | 508 g, yield: 50% | C(\C=C/C(=O)OCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(=O)OCC(CCCC)CC | C18H23F9O4
